US06204259B1
E. Synthesis of 1,4,7,10,13-Pentaazacyclohexadecane
A mixture of 1,4,7,10,13-penta(p-toluenesulfonyl)-1,4,7,10,13-pentaazacyclohexadecane prepared as in Example 1D (30 g, 0.030 mole) and concentrated H2SO4 (100 ml) was heated at 100° C. with stirring under a dry argon atmosphere for 69 h. To the resulting brown solution, ethanol (200 mL) was added dropwise with stirring at 5° C., followed by ethyl ether (500 ml). The tan solid was filtered and washed thoroughly with ethyl ether. The solid was then dissolved in H2O (75 ml), the pH was adjusted to 10 with 10N NaOH, and the solution was extracted with CHCl3 (6×200 ml). The extracts were combined and dried (Na2SO4), and the solvent was removed in vacuo. The resulting yellow solid was purified by recrystallization from hexane to give 1.0 g (15% yield) of the product as colorless needles: mp 109-110.5° C.; 1H NMR (CDCl3)δ 1.72 (quint, J=5.4 Hz, 2 H), 1.76 (br s, 5 H), 2.73 (m, 20 H); Anal. calcd. for C11H27N5: C, 57.60; H, 11.86; N, 30.53. Found: C, 57.77; H, 12.35; N, 30.57.

reactant | 1,4,7,10,13-penta(p-toluenesulfonyl)-1,4,7,10,13-pentaazacyclohexadecane | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CCN(CCN(CCN(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C46H57N5O10S5
reactant | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1,4,7,10,13-Pentaazacyclohexadecane | 1.0 g, 15% yield | N1CCNCCNCCNCCNCCC1 | C11H27N5
